US07462600B2
Methanesulfonic acid 1-benzhydryl-azetidin-3-yl ester (14.8 g, 47 mmol, Oakwood Products) was dissolved in anhydrous DMF (60 mL), and to this solution was added sodium azide (9.0 g, 138 mmol). The mixture was heated (80° C.) for 18 h, cooled to RT, then treated with water (20 mL) and satd. aq. NaHCO3 (20 mL). The resulting mixture was extracted with DCM (4×60 mL) and the organic layer dried over Na2SO4. Solvent removal yielded a crude oil (11 g) that was redissolved in THF (85 mL) and treated with triphenyl phosphine (15 g, 57 mmol). After stirring at RT (30 min; gas evolution and some exotherm noted), the mixture was heated to reflux (6 h), then cooled back down to RT before adding NH4OH (7 mL) and refluxing again (5 h). After cooling to RT, the solvent was removed and the residue treated with 3N HCl (35 mL) giving a pH 1. The resulting acidic solution was extracted with DCM (3×50 mL) and the organic layers were discarded. The aqueous layer was then basified with solid potassium hydroxide to pH 10 and then extracted again with DCM (3×75 mL). The aqueous layer was then satd. with solid sodium chloride and re-extracted with DCM (3×75 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated to yield crude 1-benzhydryl-azetidin-3-ylamine (9.0 g, 37.8 mmol). MS (ESI+) for m/z (M+H)+239.

reactant | Methanesulfonic acid 1-benzhydryl-azetidin-3-yl ester | 47 mmol, 14.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OS(=O)(=O)C | C17H19NO3S
reactant | sodium azide | 138 mmol, 9.0 g | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | triphenyl phosphine | 57 mmol, 15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NH4OH | 7 mL | [NH4+].[OH-]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | THF | 85 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 1-benzhydryl-azetidin-3-ylamine | 37.8 mmol, 9.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)N | C16H18N2
